US06248740B1
Production of ethyl 6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazine-2-carboxylate difumarate
686 mg of 4-(diphenylmethoxy)-1-piperidinepropanamine and 477 mg of ethyl 6-chloroimidazo[1,2-b]pyridazin-2-carboxylate were dissolved in 7 ml of N,N-dimethylformamide; 0.73 ml of N-ethyldiisopropylamine was added, followed by stirring in an oil bath (80° C.) for 18.5 hours. After cooling, ice water and saline were added, followed by extraction with ethyl acetate-tetrahydrofuran (1:1); the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected, dissolved in 5 ml of ethyl acetate; a solution of 95 mg of fumaric acid in 5 ml of ethanol was added, followed by concentration. Acetone-ethyl ether (1:2) was added to the residue to cause recrystallization; the crystal precipitate was collected by filtration and washed with ethyl ether to yield 211 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 686 mg | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | ethyl 6-chloroimidazo[1,2-b]pyridazin-2-carboxylate | 477 mg | ClC=1C=CC=2N(N1)C=C(N2)C(=O)OCC | C9H8ClN3O2
reactant | N-ethyldiisopropylamine | 0.73 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | ethyl 6-[3-[4-(diphenylmethoxy)piperidino] propylamino]imidazo[1,2-b]pyridazine-2-carboxylate difumarate | 211 mg | C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(=O)OCC)C2=CC=CC=C2 | InChI=1S/C30H35N5O3.2C4H4O4/c1-2-37-30(36)26-22-35-28(32-26)15-14-27(33-35)31-18-9-19-34-20-16-25(17-21-34)38-29(23-10-5-3-6-11-23)24-12-7-4-8-13-24;2*5-3(6)1-2-4(7)8/h3-8,10-15,22,25,29H,2,9,16-21H2,1H3,(H,31,33);2*1-2H,(H,5,6)(H,7,8)/b;2*2-1+
